US05405851
3-Amino-8-bromo-5,6-dihydrobenzo[f]quinazolin-1(2H)-one-9-sulfonylchloride (1.10 g, 2.8 mmole) and diethylamine(5 ml) were dissolved in water(15 ml) and heated to reflux for 30 minutes. The reaction mixture was cooled to room temperature and neutralized with dilute acetic acid. The collected precipitate was suspended in boiling methanol, the suspension allowed to cool, and the solid filtered off and dried under high vacuum to give 3-amino-8-bromo-N,N-diethyl-5,6-dihydrobenzo[f]quinazolin-1(2H)-one-9-sulfonamide (0.708 g, 59%). 1H NMR (DMSO-d6, 200 MHz) δ: 1.07 (t, J=7 Hz, 6H, ethyl CH3), 2.54-2.62 (m, 2H, Ar CH2), 2.81-2.88 (m, 2H, Ar CH2), 3.26 (q, J=7 Hz, 4H, ethyl CH2), 6.83 (br s, 2H, NH2), 7.60(s, 1H, Ar), 9.13 (s, 1H, Ar), 10.95 (br s, 1H, NH). Anal Calculated for C16H19BrN4O3S: C,44.97; H,4.48; Br,18.70; N,13.11; S,7.50. Found: C,44.90; H,4.49; Br,18.65; N,13.03; S,7.57.

reactant | 3-Amino-8-bromo-5,6-dihydrobenzo[f]quinazolin-1(2H)-one-9-sulfonylchloride | 2.8 mmole, 1.10 g | NC1=NC=2CCC3=C(C2C(N1)=O)C=C(C(=C3)Br)S(=O)(=O)Cl | C12H9BrClN3O3S
reactant | diethylamine | 5 ml | C(C)NCC | C4H11N
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | methanol | CO | CH4O
solvent | water | 15 ml | O | H2O
product | 3-amino-8-bromo-N,N-diethyl-5,6-dihydrobenzo[f]quinazolin-1(2H)-one-9-sulfonamide | 0.708 g, 59% | NC1=NC=2CCC3=C(C2C(N1)=O)C=C(C(=C3)Br)S(=O)(=O)N(CC)CC | C16H19BrN4O3S
